US04476308
2.50 g of ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate are treated with 11.5 ml of approximately 25% ammonium hydroxide solution, whereupon the mixture is stirred at room temperature for 1 hour. The mixture is treated with acetonitrile and evaporated. The residue is treated five times with acetonitrile and in each case again evaporated. There is obtained (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide which melts at 163°-164° after recrystallization from methanol/diethyl ether (1:2).

reactant | ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate | 2.50 g | OC1C(N(CC1)CC(=O)OCC)=O | C8H13NO4
reactant | ammonium hydroxide | 11.5 ml | [OH-].[NH4+]
solvent | acetonitrile | C(C)#N | C2H3N
product | (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | OC1C(N(CC1)CC(=O)N)=O | C6H10N2O3
